US08252935B2
b) 2-{5-[1-(3,5-Bis-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid
To compound 53a, 2-{5-[1-(3,5-Bis-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester (106.5 mg, 0.16 mmol) in EtOH (7.9 ml) was added 2M KOH (0.79 ml, 1.6 mmol). The reaction was heated to 78° C. for 1 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (72.3 mg, 67%). 1H NMR (300 MHz, MeOD) δ ppm 0.94 (dd, J=6.22, 2.07 Hz, 6 H) 1.50 (dt, J=13.47, 6.64 Hz, 1 H) 1.67 (ddd, J=13.75, 7.16, 6.97 Hz, 1 H) 1.89-2.04 (m, 3 H) 2.06-2.14 (m, 2 H) 3.11-3.19 (m, 2 H) 3.33-3.43 (m, 1H) 3.51-3.56 (m, 1 H) 3.61-3.65 (m, 1 H) 3.77 (t, J=7.72 Hz, 1 H) 4.49-4.64 (m, 2 H) 7.34 (s, 1 H) 7.55 (d, J=18.09 Hz, 2 H) 7.78 (q, J=8.54 Hz, 4 H) 8.16 (s, 1 H) 8.25 (s, 2 H) Calcd for C33H32F9NO2 (M+H) 645.60, Found 646.3.

reactant | 2-{5-[1-(3,5-Bis-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 0.16 mmol, 106.5 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C35H36F9NO2
reactant | KOH | 1.6 mmol, 2M, 0.79 ml | [OH-].[K+]
solvent | EtOH | 7.9 ml | CCO | C2H6O
product | 2-{5-[1-(3,5-Bis-trifluoromethyl-benzyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid | FC(C=1C=C(CN2CC(CCC2)C=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CC(C)C)C=C(C1)C(F)(F)F)(F)F | C33H32F9NO2
